US07906517B2
(5-Bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (3.30 g) is dissolved in toluene (30 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (1.26 g), 2-(di-tert-butylphosphino)biphenyl (1.23 g), morpholine (2.4 ml) and sodium tert-butoxide (1.32 g) and the mixture is degassed under reduced pressure and stirred under nitrogen flow at 50° C. overnight. To the reaction mixture is added a saturated brine, and extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→3:1) to give (5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (1.11 g). MS (m/z): 487 [M+H]+

reactant | (5-Bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 3.30 g | BrC=1C=NC(=NC1)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C22H21BrF3N3O
reactant | 2-(di-tert-butylphosphino)biphenyl | 1.23 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | morpholine | 2.4 ml | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 1.32 g | CC(C)([O-])C.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 1.26 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 1.11 g | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC1=NC=C(C=N1)N1CCOCC1)OC | C26H29F3N4O2
